US04130715
A reaction mixture of 4.00 g (31 mmol) of 1,4,7-triazacyclononane (perhydro-1,4,7-triazonine), 3.70 g (31 mmol) of dimethylformamide dimethyl acetal and 50 ml of dry benzene was distilled through a spinning band column until the by-products and solvent were removed (dimethylamine, benzene-methanol azeotrope, bp 58°, and benzene, bp 80°). The residue was then distilled through a shortpath apparatus giving 3.68 g (86%) of clear, colorless liquid, bp 80°-82° (2.5 mm), nD24 = 1.5175. Redistillation of a small sample in a molecular still at 80° (0.4 mm) gave an analytical sample of 1,4,7-triazatricyclo[5.2.1.04,10 ]decane.

reactant | 1,4,7-triazacyclononane | 31 mmol, 4.00 g | N1CCNCCNCC1 | C6H15N3
reactant | dimethylformamide dimethyl acetal | 31 mmol, 3.70 g | COC(N(C)C)OC | C5H13NO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1,4,7-triazatricyclo[5.2.1.04,10 ]decane | N12CCN3CCN(CC1)C23 | C7H13N3
